US06169107A
A mixture of 4.10 g (10.9 mmol) of ethyl 4-chloro-1-methyl-7-(4-nitrophenoxy)-2-indolecarboxylate, 12.34 g (54.7 mmol) of tin (II) chloride dihydrate and 150 ml of ethanol was stirred at 70° C. for 3 hours. After the reaction mixture was cooled to room temperature, 28% ammonia water was added to render alkaline and the mixture was extracted with ethyl acetate. Insoluble matters were filtered off. The filtrate was washed with 5% sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 2.70 g of ethyl 7-(4-aminophenoxy)-4-chloro-1-methyl-2-indolecarboxylate.

reactant | ethyl 4-chloro-1-methyl-7-(4-nitrophenoxy)-2-indolecarboxylate | 10.9 mmol, 4.10 g | ClC1=C2C=C(N(C2=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C)C(=O)OCC | C18H15ClN2O5
reactant | tin (II) chloride dihydrate | 54.7 mmol, 12.34 g | O.O.[Sn](Cl)Cl
reactant | ammonia water | O.N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 7-(4-aminophenoxy)-4-chloro-1-methyl-2-indolecarboxylate | 2.70 g | NC1=CC=C(OC=2C=CC(=C3C=C(N(C23)C)C(=O)OCC)Cl)C=C1 | C18H17ClN2O3
